US05554620
A mixture of 3-(3-furyl)-2-propynyl alcohol (1.45 g, 0.0118 mol), DMAP (1 mg), TEA (2.46 ml, 0.017 mol), and acetic anhydride (1.6 ml, 0.017 mol) in 25 ml of methylene chloride was stirred for 1 hour and the mixture was poured into cold 1N HCl solution. The mixture was extracted with ether (3×50 ml), the organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica column chromatography (hexane/ether, 2:1) to afford 1.44 g (57.5%) of 3-(3-acetyloxy-1-propynyl)furan as a clear oil.

reactant | 3-(3-furyl)-2-propynyl alcohol | 0.0118 mol, 1.45 g | O1C=C(C=C1)C#CCO | C7H6O2
reactant | acetic anhydride | 0.017 mol, 1.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 1N | Cl | ClH
catalyst | DMAP | 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-(3-acetyloxy-1-propynyl)furan | 1.44 g, 57.5% | C(C)(=O)OCC#CC1=COC=C1 | C9H8O3
